US05843399
a) 3,6-Bis(carboxymethyl)-9-(10-carbethoxydecylcarbamoylmethyl)-3,6,9-triazaundecanedioic acid
17.85 g (50 mmol) of 1.5-bis(2,6-dioxomorpholino)-3-carboxymethyl-3-azapentane is stirred in 200 ml of dimethylformamide and mixed with 9 ml (50 mmol) of water. The solution is heated for 3 hours to 70° C., cooled off to 0° C. and 36.07 ml (260 mmol) of triethylamine and 10.8 g (50 mmol) of 11-aminoundecanoic acid ethyl ester are added. After stirring overnight at room temperature, the solution is evaporated to dryness in a vacuum. The residue is taken up in 100 ml of water and the solution is mixed by drops with concentrated hydrochloric acid until permanent cloudiness. After stirring overnight in the ice bath, the finely crystalline precipitate is suctioned off, washed with water and dried in a vacuum at 50° C. 14.9 g (65% of theory) of the title compound is obtained as a white powder with melting point 155°-157° C.

reactant | 1.5-bis(2,6-dioxomorpholino)-3-carboxymethyl-3-azapentane | 50 mmol, 17.85 g | O=C1OC(CN(C1)CCN(CCN1CC(OC(C1)=O)=O)CC(=O)O)=O | C14H19N3O8
reactant | water | 50 mmol, 9 ml | O | H2O
reactant | triethylamine | 260 mmol, 36.07 ml | C(C)N(CC)CC | C6H15N
reactant | 11-aminoundecanoic acid ethyl ester | 50 mmol, 10.8 g | C(C)OC(CCCCCCCCCCN)=O | C13H27NO2
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 3,6-Bis(carboxymethyl)-9-(10-carbethoxydecylcarbamoylmethyl)-3,6,9-triazaundecanedioic acid | C(=O)(O)CN(CC(=O)O)CCN(CCN(CC(=O)O)CC(NCCCCCCCCCCC(=O)OCC)=O)CC(=O)O | C27H48N4O11
